*** SPICE deck for cell inv{sch} from library bai_5
*** Created on Thu Oct 23, 2025 20:23:55
*** Last revised on Fri Nov 14, 2025 10:12:00
*** Written on Fri Nov 14, 2025 10:12:05 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd vdd

*** TOP LEVEL CELL: inv{sch}
CC_LOAD gnd output 1n
MQ0 vdd input net@105 vdd PMOS L=0.2U W=0.8U
MQ1 net@105 input gnd gnd NMOS L=0.2U W=0.4U
Mnmos-4@1 output net@105 gnd gnd NMOS L=0.2U W=0.4U
Mpmos-4@1 vdd net@105 output vdd PMOS L=0.2U W=0.8U
VACVoltag@0 input gnd DC=1V AC=1V SIN (1V 1V 800MEG 1ns)
VV0 vdd gnd DC 1.8V

* Spice Code nodes in cell cell 'inv{sch}'
.lib "E:\Analog_IC_Design\ThucHanh\K22_TKVMTT\Electric_2025\libs\models\tsmc180nm\mm018.l TT" 
.probe v(output)
.ac dec 1000 1G 100G
.meas ac tmp max mag(v(output))
.meas ac fcut when mag(v(output))=tmp/sqrt(2)
.step VV0 1.7 2.0 0.1
.END
